US06358972B1
5-(Naphth-2-yl)-3-(1-Methylpiperidin-4-yl)-4-Aza-1H-Indole
O-Trifluoromethanesulfonyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-4-aza-1H-indole (164 mg, 0.450 mmol) and 2-naphthylboronic acid (124 mg, 0.720 mmol) were converted to 141 mg of the title compound by the procedure of Example 3. (91%). MS(FD) m/e 341.8 (M+). EA calculated for C23H23N3: C, 80.94; H, 6.74; N, 12.32. Found: C, 88.11; H, 6.87; N, 12.27.

reactant | O-Trifluoromethanesulfonyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-4-aza-1H-indole | 0.450 mmol, 164 mg | FC(S(=O)(=O)OC=1N=C2C(=CNC2=CC1)C1CCN(CC1)C)(F)F | C14H16F3N3O3S
reactant | 2-naphthylboronic acid | 0.720 mmol, 124 mg | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | 5-(Naphth-2-yl)-3-(1-Methylpiperidin-4-yl)-4-Aza-1H-Indole | 141 mg | C1=C(C=CC2=CC=CC=C12)C=1N=C2C(=CNC2=CC1)C1CCN(CC1)C | C23H23N3
